US08809267B2
To 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-hydroxy-pyrrolidine-2-carbonyl]-amino}-2-ethyl-cyclopropanecarboxylic acid (210 mmg, 0.46 mmol) at 0° C. (external temperature, ice bath) was added KOt-Bu (1 m in THF, 2.3 mL, 2.3 mmol, 5 equiv.) and 4-chloro-7-methoxy-cinnoline (95 mg, 0.49 mmol, 1.06 equiv.) in THF (3 mL). The reaction was stirred at 0° C. for 2.5 h and diluted with EtOAc. The solution was washed with aqueous HCl (1M), resulting a precipitation of the crude product. The organic layer was dried over Na2SO4 and combined with the precipitate. The crude product was purified by column chromatography (0→15% MeOH/CH2Cl2) to provide 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-cinnolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-ethyl-cyclopropanecarboxylic acid (161 mg, 57%).

reactant | 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-hydroxy-pyrrolidine-2-carbonyl]-amino}-2-ethyl-cyclopropanecarboxylic acid | 0.46 mmol | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CC(C1)O)C(=O)NC1(C(C1)CC)C(=O)O)C(C)(C)C | C22H37N3O7
reactant | KOt-Bu | 2.3 mmol, 2.3 mL, 5 equiv. | CC(C)(C)[O-].[K+]
reactant | 4-chloro-7-methoxy-cinnoline | 0.49 mmol, 95 mg, 1.06 equiv. | ClC1=CN=NC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{[1-(2-tert-butoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-cinnolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-ethyl-cyclopropanecarboxylic acid | 161 mg, 57% | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CC(C1)OC1=CN=NC2=CC(=CC=C12)OC)C(=O)NC1(C(C1)CC)C(=O)O)C(C)(C)C | C31H43N5O8
